US04146630
4-[2-Hydroxy-3-(4-phenoxymethylpiperidino)-propoxy-2-ethoxycarbonylindole
A mixture of 0.9 g. 2-ethoxycarbonyl-4-hydroxyindole, 1.7 g. N-(2,3-epoxypropyl)-4-phenoxymethylpiperidine, 1.2 g. potassium carbonate and 50 ml. acetonitrile is heated under reflux for 10 hours. The reaction mixture is then filtered while still hot and the filtrate left to cool overnight. 0.3 g. (15% of theory) 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-2-ethoxycarbonylindole crystallize out; m.p. 168°-170° C.

reactant | 2-ethoxycarbonyl-4-hydroxyindole | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)O | C11H11NO3
reactant | N-(2,3-epoxypropyl)-4-phenoxymethylpiperidine | O1C(CN2CCC(CC2)COC2=CC=CC=C2)C1 | C15H21NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Hydroxy-3-(4-phenoxymethylpiperidino)-propoxy-2-ethoxycarbonylindole | OC(COC1=C(NC2=CC=CC=C12)C(=O)OCC)CN1CCC(CC1)COC1=CC=CC=C1 | C26H32N2O5
